US06783912B2
Under a nitrogen atmosphere potassium bis(trimethylsilyl)-amide (10.92 g, 0.052 mole) is dissolved in 100 ml dry THF and the solution cooled to 0-5° C. in an ice bath. To this solution 2-thienyl methyl sulfone (5 g, 0.03 mole) is added in one portion and the mixture is stirred for 25 min. At that temperature, N-phenyltrifluoromethanesulfonimide (9.08 g 0.025 mole) is added in one portion. The ice bath is removed and the mixture refluxed for 2 h, cooled to room temperature, filtered and rinsed with 50 ml ether once. After drying in vacuum, 6.4 g (77%) of the corresponding potassium salt are obtained as a white solid. To a suspension of the salt in 130 ml dichloromethane is added 9 ml conc. HCl and the mixture is then stirred for 21 h, the phases are separated and the aqueous phase extracted with dichloromethane once. The combined organic phases are dried over MgSO4, the solvent removed and the residue dried under vacuum, leaving 2-thienylsulfonyl-trifluoromethanesulfonyl-methane as a white solid (5.6 g, 990%).

reactant | potassium bis(trimethylsilyl)-amide | 0.052 mole, 10.92 g | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 2-thienyl methyl sulfone | 0.03 mole, 5 g | CS(=O)(=O)C=1SC=CC1 | C5H6O2S2
reactant | N-phenyltrifluoromethanesulfonimide | 0.025 mole, 9.08 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | HCl | 9 ml | Cl | ClH
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | dichloromethane | 130 ml | ClCCl | CH2Cl2
product | 2-thienylsulfonyl-trifluoromethanesulfonyl-methane | 5.6 g, 990% | S1C(=CC=C1)S(=O)(=O)CS(=O)(=O)C(F)(F)F | C6H5F3O4S3
